US08349860B2
A mixture of 4-nitropyrazole (270 mg, 2.38 mmol), iodobenzene (485 mg, 2.38 mmol), 8-hydroxyquinoline (60 mg, 0.41 mmol) and K2CO3 (600 mg, 4.34 mmol) in DMSO (3 mL) was degassed with argon before being charged with CuI (45 mg, 0.23 mmol). The mixture in a sealed tube was heated at 130 C for 20 h. Water was added to induce precipitation. The precipitate was collected to give 4-nitro-1-phenyl-1H-pyrazole (454 mg).

reactant | 4-nitropyrazole | 2.38 mmol, 270 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | iodobenzene | 2.38 mmol, 485 mg | IC1=CC=CC=C1 | C6H5I
reactant | 8-hydroxyquinoline | 0.41 mmol, 60 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 4.34 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.23 mmol, 45 mg | [Cu]I
solvent | Water | O | H2O
product | 4-nitro-1-phenyl-1H-pyrazole | 454 mg | [N+](=O)([O-])C=1C=NN(C1)C1=CC=CC=C1 | C9H7N3O2
